US05500453
A solution of 3.56 g of lithium (2-phenylethenyl)tris(p-fluorophenyl)borate in 50 ml of acetonitrile was added to a solution of 5.00 g of bis(p-chlorophenyl)(p-bromobenzyl)sulfonium hexafluorophosphate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 1.85 g of bis(p-chlorophenyl)(p-bromobenzyl)sulfonium-(2-phenylethenyl)tris(p-fluorophenyl)borate.

reactant | lithium (2-phenylethenyl)tris(p-fluorophenyl)borate | 3.56 g | C1(=CC=CC=C1)C=C[B-](C1=CC=C(C=C1)F)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F.[Li+]
reactant | bis(p-chlorophenyl)(p-bromobenzyl)sulfonium hexafluorophosphate | 5.00 g | F[P-](F)(F)(F)(F)F.ClC1=CC=C(C=C1)[S+](CC1=CC=C(C=C1)Br)C1=CC=C(C=C1)Cl
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | bis(p-chlorophenyl)(p-bromobenzyl)sulfonium (2-phenylethenyl)tris(p-fluorophenyl)borate | 1.85 g | ClC1=CC=C(C=C1)[S+](CC1=CC=C(C=C1)Br)C1=CC=C(C=C1)Cl.C1(=CC=CC=C1)C=C[B-](C1=CC=C(C=C1)F)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | InChI=1S/C26H19BF3.C19H14BrCl2S/c28-24-12-6-21(7-13-24)27(22-8-14-25(29)15-9-22,23-10-16-26(30)17-11-23)19-18-20-4-2-1-3-5-20;20-15-3-1-14(2-4-15)13-23(18-9-5-16(21)6-10-18)19-11-7-17(22)8-12-19/h1-19H;1-12H,13H2/q-1;+1
